US05366982
The procedure in Example 4 is followed but using ethyl 6-{[4-(4-aminophenyl)-6-phenyl-2-pyridyl]-oxy}hexanoate (3.9 g), potassium hydroxide pellets (0.81 g) dissolved in distilled water (10 cc), and ethanol (150 cc). The reaction mixture is refluxed for 2 hours. The product is purified by recrystallization in toluene (70 cc) to obtain 6-{[4-(4-aminophenyl)-6-phenyl-2-pyridyl]oxy}hexanoic acid as yellowish crystals; (m.p.=131°-133° C.)

reactant | ethyl 6-{[4-(4-aminophenyl)-6-phenyl-2-pyridyl]-oxy}hexanoate | 3.9 g | NC1=CC=C(C=C1)C1=CC(=NC(=C1)C1=CC=CC=C1)OCCCCCC(=O)OCC | C25H28N2O3
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol | 150 cc | C(C)O | C2H6O
solvent | water | 10 cc | O | H2O
product | 6-{[4-(4-aminophenyl)-6-phenyl-2-pyridyl]oxy}hexanoic acid | NC1=CC=C(C=C1)C1=CC(=NC(=C1)C1=CC=CC=C1)OCCCCCC(=O)O | C23H24N2O3
